* ============================================================
* models/spice/jj_rcsj.cir
* RCSJ (Resistively and Capacitively Shunted Junction) Model
* Josephson Junction SPICE Subcircuit
* Compatible with: SPICE3, ngspice, Qucs-S
* ============================================================
*
* Model Overview:
*   The RCSJ model represents a JJ as:
*     - Ideal Josephson element (nonlinear inductor/phase source)
*     - Shunt resistance Rn (quasiparticle tunneling)
*     - Shunt capacitance Cjj (dielectric barrier capacitance)
*
* Josephson current:  I = Ic × sin(δ)
* Phase dynamics:     ℏ/2e × dδ/dt = V
* Stewart-McCumber parameter: βc = 2π Ic Rn² Cjj / Φ₀
*   βc << 1: overdamped (no hysteresis) — preferred for fast reset
*   βc >> 1: underdamped (hysteretic)   — used for latching logic
*
* For transmon qubits: βc ≈ 0.1-1 (slightly underdamped)
*
* Parameters (pass as .param):
*   Ic   = critical current [A]
*   Rn   = normal-state resistance [Ω]
*   Cjj  = junction capacitance [F]
*   Phi0 = flux quantum = 2.067833848e-15 Wb
*   T    = temperature [K] (for thermal noise)
*
* ============================================================

.subckt JJ_RCSJ  anode cathode PARAMS:
+  Ic=300n        
+  Rn=8000        
+  Cjj=4.05f      
+  Phi0=2.0678e-15
+  T=0.020        

* ── Node definitions ──────────────────────────────────────────
* anode    — positive terminal (connects to island A)
* cathode  — negative terminal (connects to island B)
* phi_node — internal node tracking Josephson phase δ
* vj_node  — voltage across junction

* ── Junction voltage ─────────────────────────────────────────
* V_junction = V(anode) - V(cathode)
Eairth  vj_node 0 anode cathode 1

* ── Phase integrator: dδ/dt = (2e/ℏ) × V = (2π/Φ₀) × V ─────
* δ(t) = (2π/Φ₀) ∫ V(t) dt
* Implemented as: Gphase integrates Ij through Cphase
* where Cphase = Φ₀/(2π), so V_phase(t) = (1/Cphase) ∫ I dt = δ(t)
Cphase phi_node 0 {Phi0/(2*3.14159265)}
Gphase 0 phi_node vj_node 0 1    

* ── Josephson supercurrent: Ij = Ic × sin(δ) ─────────────────
* Implemented as voltage-controlled current source
Gsup anode cathode VALUE={Ic*sin(V(phi_node))}

* ── Quasiparticle resistance (normal channel) ────────────────
Rqp  anode cathode {Rn}

* ── Junction capacitance ─────────────────────────────────────
Cbar anode cathode {Cjj}

* ── Thermal Johnson noise source (T > 0) ─────────────────────
* Noise power: Sn = 4 kB T / Rn   [A²/Hz]
* Represented as current noise source
* (ngspice uses .noise analysis; this is a reminder for noise sim)
*   Inoise: Gaussian white noise with PSD = 4*kB*T/Rn

* ── Initial condition ────────────────────────────────────────
.ic V(phi_node)=0     

.ends JJ_RCSJ


* ============================================================
* Transmon Qubit SPICE Model
* models/spice/transmon.cir
* ============================================================
*
* Circuit: Two islands connected by RCSJ JJ and shunt capacitor
* Island A — JJ — Island B
* Island A, B coupled to feedline via coupling capacitors Cg
*
* This is the CLASSICAL circuit model; for quantum behavior
* see models/hamiltonian/transmon_ham.py
*
* ============================================================

.subckt TRANSMON  drive_port readout_port gnd PARAMS:
+  f01_GHz=5.0
+  alpha_MHz=250
+  Cs_fF=80
+  Cg_fF=3.5
+  Ic_nA=120
+  Rn_ohm=9000

* Derived parameters
.param EC_GHz={alpha_MHz*1e-3}
.param EJ_GHz={(f01_GHz + EC_GHz)**2 / (8*EC_GHz)}
.param C_total_fF={1e15 * (1.602e-19)**2 / (2 * EC_GHz*1e9 * 6.626e-34)}
.param Cjj_fF={C_total_fF - Cs_fF}

* ── Qubit islands ────────────────────────────────────────────
* Island_A and Island_B connected by JJ
X_JJ  island_A island_B JJ_RCSJ
+      Ic={Ic_nA*1e-9}
+      Rn={Rn_ohm}
+      Cjj={Cjj_fF*1e-15}

* Shunt capacitor across islands
Cshunt island_A island_B {Cs_fF*1e-15}

* ── Coupling to readout resonator ────────────────────────────
* Voltage divider: readout port → Cg → island_A
Ccoupl readout_port island_A {Cg_fF*1e-15}

* ── Coupling to drive line ───────────────────────────────────
Cdrive drive_port island_A {0.5f}

* ── Ground island B ──────────────────────────────────────────
Rgnd island_B gnd 1m    $ small resistor for DC path

.ends TRANSMON


* ============================================================
* Readout Resonator SPICE Model
* ============================================================

.subckt CPW_RESONATOR  input_port output_port gnd PARAMS:
+  f_GHz=6.8
+  Z0=50
+  Qi=1e5
+  Qc=3000
+  mode=1     $ 1=quarter-wave, 2=half-wave

* Lumped equivalent of λ/4 resonator:
*   Lr Cr series tank at resonance
*   ω₀ = 1/√(Lr Cr)
*   Z_tank = Lr * ω₀ / Qr at resonance

.param omega0={2*3.14159265*f_GHz*1e9}
.param Ql={1/(1/Qi + 1/Qc)}
.param Cr={1/(omega0*Z0)}
.param Lr={1/(omega0**2 * Cr)}
.param Rr={Lr*omega0/Qi}       $ internal loss

* ── Series RLC resonator ─────────────────────────────────────
Lr  int_a int_b {Lr}
Cr  int_b int_c {Cr}
Rr  int_c gnd   {Rr}

* ── Coupling capacitor to input feedline ─────────────────────
.param Cc_fF={1e15/(Qc*omega0*Z0)}
Cc_in  input_port int_a {Cc_fF*1e-15}

* ── Output coupling (for transmission measurement) ───────────
Cc_out int_a output_port {Cc_fF*1e-15}

* ── Feedline terminations ─────────────────────────────────────
Rfeed_in  input_port  gnd {Z0}
Rfeed_out output_port gnd {Z0}

.ends CPW_RESONATOR


* ============================================================
* Top-level Single Qubit + Resonator Testbench
* ============================================================

.title Transmon-Resonator Dispersive Readout Simulation

.param f_qubit=5.0G
.param f_readout=6.8G
.param g_MHz=80        $ qubit-resonator coupling strength

* Qubit
X_Q  Vdrive Vreadout_qb GND  TRANSMON
+     f01_GHz=5.0  alpha_MHz=250  Cs_fF=80  Cg_fF=3.5
+     Ic_nA=120  Rn_ohm=9000

* Readout resonator
X_R  Vreadout_qb Vout GND  CPW_RESONATOR
+     f_GHz=6.8  Z0=50  Qi=1e5  Qc=3000

* Drive signal
Vdrive  Vdrive GND AC 1 SIN(0 1n {f_qubit})

* Output load
Rload Vout GND 50

* ── Analysis ─────────────────────────────────────────────────
.ac dec 100 4G 8G          $ S21 frequency sweep
.tran 0.01n 100n           $ time-domain Rabi oscillation
.noise V(Vout) Vdrive dec 100 4G 8G

* ── Output ───────────────────────────────────────────────────
.print ac Vdb(Vout) Vphase(Vout)
.print tran V(Vdrive) V(Vout) V(island_A)
.end
